US09278940B2
A mixture of 2-(6-fluoropyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one (0.202 g, 0.67 mmol), 2-(piperazin-1-yl)propan-1-ol dihydrochloride (0.292 g, 1.34 mmol) and 1,1,3,3-tetramethylguanidine (0.310 g, 2.69 mmol) in dry DMSO (1.5 mL) was heated at 85° C. for 6 h. After that time the reaction was cooled to rt, diluted with water (15 mL) and extracted with ethyl acetate (2×30 mL). The combined organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The product was purified by flash column chromatography (silica gel, 97:3 dichloromethane/methanol to 95:5 dichloromethane/methanol) to give 2-(6-(4-(1-hydroxypropan-2-yl)piperazin-1-yl)pyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one (0.155 g, 54%) as a yellow solid: mp 202-204° C.; 1H NMR (400 MHz, CDCl3) δ 10.30 (s, 1H), 7.87 (d, J=7.42 Hz, 1H), 7.64-7.72 (m, 1H), 6.79-6.88 (m, 2H) 6.49 (d, J=2.34 Hz, 1H) 3.99 (s, 3H), 3.94 (s, 3H), 3.61-3.72 (m, 4H), 3.38-3.52 (m, 2H), 2.89-2.99 (m, 1H), 2.78-2.88 (m, 2H), 2.54-2.64 (m, 2H), 0.97 (d, J=6.64 Hz, 3H); ESI MS m/z 426 [M+H]+.

reactant | 2-(6-fluoropyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.67 mmol, 0.202 g | FC1=CC=CC(=N1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C15H12FN3O3
reactant | 2-(piperazin-1-yl)propan-1-ol dihydrochloride | 1.34 mmol, 0.292 g | Cl.Cl.N1(CCNCC1)C(CO)C
reactant | 1,1,3,3-tetramethylguanidine | 2.69 mmol, 0.310 g | CN(C(=N)N(C)C)C | C5H13N3
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
solvent | water | 15 mL | O | H2O
product | 2-(6-(4-(1-hydroxypropan-2-yl)piperazin-1-yl)pyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.155 g, 54% | OCC(C)N1CCN(CC1)C1=CC=CC(=N1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C22H27N5O4
